Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ with hx Gastric Bypass ___, prior cholecystectomy and no 
prior cardiac history who presented to ___ 
with chest pain radiating to shoulder. 3 day prior to admission, 
she had seen her PCP for febrile episodes and diffuse body aches 
(with lower extremity joint predominance) x 1 week. She was 
prescribed antibiotics. Starting the day prior to admission, pt 
had sudden onset of severe, sharp substernal chest pain with 
palpitations, SOB, and radiation to shoulders and arms. Episode 
lasted ~1hr and resolved spontaneously. This happened several 
more times leading up to admission. Was happening mostly at 
rest. Upon presenting to ___, she had chest pain radiating 
to shoulders and arms, nonspecific EKG changes, and a troponin 
of 17.7. Her blood pressures were ___. She received 
Ativan and toradol, as well as a fluid bolus for a pressure in 
___ that increased to ___ following bolus. Her SBP allegedly 
runs in ___. Currently chest pain free, denies lightheadedness 
or syncope.  
 
Past Medical History:
gastric bypass
cholecystectomy
hypothyroidism

 
Social History:
___
Family History:
Maternal Grandfather died of MI age late ___ (?)___
Maternal Grandmother had MI and subsequently died of ruptured 
cerebral aneurysm at age ___
Paternal Grandfather died of MI at age ___
Neither mother nor father have suffered coronary events or have 
significant CV history 

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
 VS: T 98.1 BP 94/63 HR 69 RR 16 SpO2 100%/RA  
 GENERAL: WDWN female in NAD. Mental status intact. Mood, affect 
appropriate.  
 NECK: Supple with JVP of 7 cm.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND.   
 EXTREMITIES: No edema. Warm and well-perfused. Distal pulses 2+ 
b/l 
 SKIN: No rashes or lesions 

DISCHARGE PHYSICAL EXAM
=======================
 VS: T 98.1 BP 94/63 HR 69 RR 16 SpO2 100%/RA  
 GENERAL: WDWN female in NAD. Mental status intact. Mood, affect 
appropriate.  
 NECK: Supple with JVP of 7 cm.  
 CARDIAC: RR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND.   
 EXTREMITIES: No edema. Warm and well-perfused. Distal pulses 2+ 
b/l 
 SKIN: No rashes or lesions 
 
Pertinent Results:
ADMISSION LABS
==============
___ 04:00AM   ___ PTT-28.9 ___
___ 04:00AM   PLT COUNT-228
___ 04:00AM   NEUTS-43.4 ___ MONOS-9.1 EOS-3.4 
BASOS-0.3 IM ___ AbsNeut-2.57 AbsLymp-2.58 AbsMono-0.54 
AbsEos-0.20 AbsBaso-0.02
___ 04:00AM   WBC-5.9 RBC-3.31* HGB-10.2* HCT-30.9* MCV-93 
MCH-30.8 MCHC-33.0 RDW-12.4 RDWSD-42.9
___ 04:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 04:00AM   TSH-8.5*
___ 04:00AM   CK-MB-35* MB INDX-8.8*
___ 04:00AM   cTropnT-0.80*
___ 04:00AM   CK(CPK)-397*
___ 04:00AM   GLUCOSE-76 UREA N-8 CREAT-0.6 SODIUM-140 
POTASSIUM-3.2* CHLORIDE-105 TOTAL CO2-26 ANION GAP-12
___ 06:45AM URINE  MUCOUS-MANY
___ 06:45AM URINE  RBC-5* WBC-16* BACTERIA-MANY YEAST-NONE 
EPI-8
___ 06:45AM URINE  BLOOD-NEG NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-15 BILIRUBIN-SM UROBILNGN-4* PH-6.0 LEUK-SM
___ 06:45AM URINE  COLOR-Yellow APPEAR-Cloudy SP ___
___ 06:45AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:45AM URINE  UCG-NEGATIVE

PERTINENT LABS
==============
___ 04:00AM   TSH-8.5*
___ 04:00AM   CK-MB-35* MB INDX-8.8*
___ 04:00AM   cTropnT-0.80*
___ 04:00AM   CK(CPK)-397*
___ 06:45AM URINE  BLOOD-NEG NITRITE-POS PROTEIN-30 
GLUCOSE-NEG KETONE-15 BILIRUBIN-SM UROBILNGN-4* PH-6.0 LEUK-SM
___ 07:00AM BLOOD CK-MB-PND cTropnT-1.29*

DISCHARGE LABS
==============
___ 07:00AM BLOOD WBC-5.1 RBC-3.38* Hgb-10.9* Hct-32.6* 
MCV-96 MCH-32.2* MCHC-33.4 RDW-12.6 RDWSD-44.6 Plt ___
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-31.5 ___
___ 07:00AM BLOOD Glucose-82 UreaN-8 Creat-0.7 Na-141 K-3.8 
Cl-107 HCO3-25 AnGap-13
___ 07:00AM BLOOD CK-MB-PND cTropnT-1.29*
___ 07:00AM BLOOD Calcium-8.5 Phos-3.5 Mg-1.8

IMAGING/ STUDIES
================
TTE ___
Conclusions
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size and regional/global systolic function are 
normal (LVEF >55%). Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 
IMPRESSION: Preserved biventricular systolic function. No 
clinically significant valvular disease. Normal pulmonary artery 
systolic pressure. 

Abd x-ray ___ 
FINDINGS:  
  
No significant abnormality seen in the bowel gas pattern.  
Numerous surgical clips in the upper abdomen.  IUD noted in the 
pelvis.  No abnormal air-fluid levels and no free air. 

 
Brief Hospital Course:
Patient is a ___ with hx of gastric bypass presents with chest 
pain radiating to shoulder and dramatic troponin elevation in 
context of recent febrile illness, consistent with myocarditis. 

 #MYOCARDITIS: Young female with few cardiac risk factors 
presents with chest pain radiating to shoulder and dramatic 
troponin elevation in context of recent febrile illness and 
recent travel (___), consistent with 
myocarditis. Most likely viral given hx URI prodrome. Also 
ruling out Lyme. Minimal if any EKG changes, but truly dramatic 
troponin rise to 17. However, she has been chest pain free at 
___. ACS on differential but seems less likely. Does not 
appear to be in heart failure. No clinical signs of 
pericarditis. Troponin here 0.80, CK 397, MB 35, MBI 8.8. Echo 
done on admission (___) showed normal heart function with no 
wall motion abnormalities, hypokinesis, or valvular 
abnormalities. Lyme titers drawn and still pending

#UTI: presented to PCP with symptomatic UTI a few days prior to 
admission; sensitivities obtained for PCP and patient started on 
ciprofloxacin, accordingly. Day 1 on ___. Should complete ___

 #Normocytic Anemia: H/H of 10.9/32.6 on admission. Stable 
throughout admission

 #Hypothyroidism: routine TFT shows TSH 8.5

 #s/p gastric bypass: not taking multivitamins regularly

TRANSITIONAL ISSUES:
====================
# CODE: Full (confirmed)
# CONTACT: ___, husband, ___
[] folate, MVI supplementation
[] repeat thyroid function testing 
[] follow-up Lyme titers
[] AVOID NSAIDs
[] finish Cipro 500mg BID Day 1 on ___. Should complete ___ for UTI resistant to Bactrim
[] Outpatient cardiac MRI
 
Medications on Admission:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Multivitamins W/minerals 1 TAB PO DAILY 
3. Accutane, per patient report

 
Discharge Medications:
1. Multivitamins W/minerals 1 TAB PO DAILY 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Ciprofloxacin HCl 500 mg PO Q12H Duration: 12 Doses 
RX *ciprofloxacin HCl 500 mg One tablet(s) by mouth two times a 
day Disp #*12 Tablet Refills:*0
4. Accutane, per patient report

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Myocarditis

Secondary diagnoses:
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ from 
___ to ___ for what appeared to be myocarditis, or 
inflammation/irritation of your heart muscle. We think this is 
what caused you to have chest pain.

WHILE YOU WERE IN THE HOSPITAL:
===============================
- You had blood work done to monitor any injury to your heart
- You had an ultrasound of your heart (an echocardiogram), which 
showed normal heart function
- Lastly, we talked with your primary care physician who 
informed us that you had a urinary tract infection. You were 
given antibiotics "Ciprofloxacin." You should take this twice 
daily for 6 doses (as written on your prescription).

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL:
=============================================
- You will get an MRI of your heart - they will contact you for 
this appointment. 
- You will see your primary care doctor in the office for 
routine follow-up
- DO NOT TAKE IBUPROFEN CONTAINING PRODUCTS FOR HEADACHES, 
ACHES/PAINS, CHEST PAIN (Advil, Motrin) or naproxen (Aleve), as 
these medicines can cause damage to your heart in it's current 
state. 
- DO NOT partake in strenuous activities for a least 30 days.

If you have any further questions about your care here, please 
do not hesitate to contact us. We wish you the best with your 
health going forward.

Your ___ Cardiology Team
 
Followup Instructions:
___